data/mechanisms/records/IMS8-EQ8.57.json
{"mechanism_id": "IMS8-EQ8.57", "species": [{"species_id": "methylpyrrolidine_radical_cation", "mapped_smiles": "[NH+:1]1[CH2:2][CH:3]([CH3:6])[CH2:4][CH2:5]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_iminium_distonic_ion", "mapped_smiles": "[CH2:2]=[NH+:1][CH2:5][CH2:4][CH:3][CH3:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propene_neutral", "mapped_smiles": "[CH2:4]=[CH:3][CH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "aminomethylene_iminium_radical_cation", "mapped_smiles": "[CH2:2]=[NH+:1][CH2:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["methylpyrrolidine_radical_cation"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_iminium_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["propene_neutral", "aminomethylene_iminium_radical_cation"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_alkene_loss", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 182, "equation": "8.57", "figure": null, "panel": null, "section": null}, "confidence": 0.8, "curator_note": "First arrow of Equation 8.57, labelled 'alpha'. Generic scheme: a pyrrolidine ring carrying R on nitrogen and R' on the ring carbon two bonds away from N (position 3, as drawn: the R'-bearing vertex is bonded to the N-adjacent vertex, not to N itself). The molecular ion is n-ionized at nitrogen ('+.' drawn over N); alpha-cleavage forms the N=C2 iminium head and breaks the C2-C3 ring bond, giving the ring-opened distonic ion CH2=N+(R)-CH2CH2-.CH(R') that the page draws as the middle structure (radical dot on the R'-bearing carbon). Book draws 2 arcs: move <1> is the small drawn fishhook from the N+. odd electron into the forming N=C2 pi bond and move <2> is the large drawn fishhook from the breaking C2-C3 sigma bond into that same pi bond; move <3> (the other C2-C3 sigma electron onto C3) is an implicit homolysis hook required for electron balance (not drawn on the page, although the product radical dot is shown). INSTANTIATION: R = H, R' = CH3 (3-methylpyrrolidine, M+. m/z 85.089), the first of the two substitution patterns tabulated under the equation; the m/z values encoded here therefore derive from that curator-chosen instantiation."}, {"evidence_id": "ev_step_alpha_alkene_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_alkene_loss", "support_type": "textbook_proposed", "locator": {"page": 182, "equation": "8.57", "figure": null, "panel": null, "section": null}, "confidence": 0.8, "curator_note": "Second arrow of Equation 8.57, also labelled 'alpha': the C3 radical of the ring-opened ion forms the C3=C4 pi bond and the C4-C5 bond breaks, expelling the neutral alkene CH2=CH-R' (propene for R' = CH3, drawn at the right of the equation) and leaving the odd-electron ion .CH2-N+(R)=CH2 - m/z 43, 100% for R = H, R' = CH3; the page also tabulates R = CH3, R' = H : m/z 57, 80% (the same ion skeleton with an N-methyl, m/z 57.058). Book draws 2 arcs, both terminating on the forming C3=C4 bond: move <1> (the C3 radical's odd electron, drawn from the dot) and move <2> (one electron of the breaking C4-C5 sigma bond); move <3> (the other C4-C5 electron onto C5) is an implicit homolysis hook required for electron balance (not drawn on the page, although the product radical dot on the N-CH2 is shown). DELOCALIZATION: the surrounding text states that in such ions the unpaired electron is stabilized by allylic resonance, .CR2-Y+=CR'2 <-> CR2=Y+-CR'2; one localized form is encoded consistently (radical on C5, iminium N1=C2), which is the form drawn on the page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 85.0886, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_oe_ion_m43", "species_id": "aminomethylene_iminium_radical_cation", "step_id": "step_alpha_alkene_loss", "observed_mz": 43.0417, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
